US05545742
Preparation of 4'-Amino-2'-fluoro-5'-(o-methoxy-anilino)acetanilide
A mixture of 2'-fluoro-5'-(o-methoxyanilino)-4'-nitroacetanilide (14.6 g, 0.046 mol) in ethyl acetate is slowly added to a mixture of iron powder (7.65 g, 0.137 mol) in a 5% acetic acid solution at 65° C. After the addition is complete, the reaction mixture is heated at 65° C. overnight, treated with additional iron powder (2.55 g), heated at 65° C. for one hour and filtered. The resultant filtrate is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a brown oil. Flash column chromatography of the oil using silica gel and 10% to 30% ethyl acetate in methylene chloride solutions gives the title product as a brown oil which is identified by NMR spectral analyses.

reactant | 2'-fluoro-5'-(o-methoxyanilino)-4'-nitroacetanilide | 0.046 mol, 14.6 g | FC1=C(NC(C)=O)C=C(C(=C1)[N+](=O)[O-])NC1=C(C=CC=C1)OC | C15H14FN3O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | iron | 0.137 mol, 7.65 g | [Fe] | Fe
catalyst | iron | 2.55 g | [Fe] | Fe
product | 4'-Amino-2'-fluoro-5'-(o-methoxy-anilino)acetanilide | NC1=CC(=C(NC(C)=O)C=C1NC1=C(C=CC=C1)OC)F | C15H16FN3O2
